US07981918B2
Treat a mixture of 2,6-dichlorotoluene (50.0 g, 0.31 mol), iodine (0.10 g, 0.39 mmol), and 325 mesh iron powder (0.70 g, 12.5 mmol) in CCl4 (60 mL) dropwise with bromine (52.8 g, 0.33 mol) over 20 minutes and is stir for 3 hours at room temperature. Pour the mixture into ice water and extract with 1,2-dichloroethane. Wash the organic layer with saturated sodium bisulfite and dry using Na2SO4. Remove the solvent in vacuo to afford 76.01 g (100%) 1-bromo-2,4-dichloro-3-methyl-benzene.

reactant | 2,6-dichlorotoluene | 0.31 mol, 50.0 g | ClC1=C(C(=CC=C1)Cl)C | C7H6Cl2
reactant | bromine | 0.33 mol, 52.8 g | BrBr | Br2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | 12.5 mmol, 0.70 g | [Fe] | Fe
catalyst | iodine | 0.39 mmol, 0.10 g | II | I2
product | 1-bromo-2,4-dichloro-3-methyl-benzene | 76.01 g, 100% | BrC1=C(C(=C(C=C1)Cl)C)Cl | C7H5BrCl2
